### PR TITLE
Improve generality of homotopy whiskering operations

### PR DESCRIPTION
**Pull request by fredrik-bakke**
This PR improves the generality of the homotopy whiskering operations by introducing more possible type dependencies into the definitions. Moreover, it bumps the precedence of both whiskering operators, so that in particular left whiskering takes precedence over right whiskering. These two operators commute definitionally, so it doesn't matter which way we associate them, and Agda is usually indecisive with which way to print them when you ask it to. The downside to this change is that Agda will start omitting parentheses when written together with homotopy concatenations, so maybe this is a change for the worse.

### CODE REVIEW

File: src/foundation-core/whiskering-homotopies.lagda.md [hunk 1]
```diff
@@ -194,26 +229,49 @@ module _
...
-  { l1 l2 l3 : Level} {A : UU l1} {B : UU l2} {C : UU l3}
-  { f g : A → B}
+  { l1 l2 l3 : Level} {A : UU l1} {B : A → UU l2} {C : A → UU l3}
+  { f g : (x : A) → B x}
   where
 
   ap-left-whisk-htpy :
-    ( h : B → C) {H H' : f ~ g} (α : H ~ H') → h ·l H ~ h ·l H'
+    (h : {x : A} → B x → C x) {H H' : f ~ g} (α : H ~ H') → h ·l H ~ h ·l H'
   ap-left-whisk-htpy h α x = ap (ap h) (α x)
```
Comment (VojtechStep) [inline src/foundation-core/whiskering-homotopies.lagda.md:249]:
```suggestion
  ap-left-whisk-htpy h α x = (ap h) ·l α
```
This can now be more symmetric with `ap-right-whisk-htpy`

File: src/foundation-core/whiskering-homotopies.lagda.md [hunk 2]
```diff
@@ -194,26 +229,49 @@ module _
...
+
+```agda
+module _
+  { l1 l2 l3 l4 : Level}
+  {A : UU l1} {B : A → UU l2}
+  {C : {x : A} → B x → UU l3} {D : {x : A} → B x → UU l4}
+  { f g : {x : A} (y : B x) → C y}
+  where
+
+  coherence-left-right-whish-htpy :
```
Comment (VojtechStep) [inline src/foundation-core/whiskering-homotopies.lagda.md:271]:
```suggestion
  coherence-left-right-whisk-htpy :
```

File: src/foundation-core/whiskering-homotopies.lagda.md [hunk 3]
```diff
@@ -194,26 +229,49 @@ module _
...
+    (h : {x : A} {y : B x} → C y → D y)
+    (H : {x : A} → f {x} ~ g {x})
+    (h' : (x : A) → B x) →
+    h ·l (H ·r h') ~ (h ·l H) ·r h'
+  coherence-left-right-whish-htpy h H h' = refl-htpy
```
Comment (VojtechStep) [inline src/foundation-core/whiskering-homotopies.lagda.md:276]:
```suggestion
  coherence-left-right-whisk-htpy h H h' = refl-htpy
```

File: src/foundation-core/whiskering-homotopies.lagda.md [hunk 4]
```diff
@@ -194,26 +229,49 @@ module _
...
 ```
 
 ### Whiskering whiskerings
 
 ```agda
 module _
-  { l1 l2 l3 : Level} {A : UU l1} {B : UU l2} {C : UU l3}
-  { f g : A → B}
+  { l1 l2 l3 : Level} {A : UU l1} {B : A → UU l2} {C : A → UU l3}
+  { f g : (x : A) → B x}
```
Comment (VojtechStep) [inline src/foundation-core/whiskering-homotopies.lagda.md:244]:
```suggestion
  {l1 l2 l3 : Level} {A : UU l1} {B : A → UU l2} {C : A → UU l3}
  {f g : (x : A) → B x}
```

If you're already unifying the spacing in other modules, then might as well do it here

File: src/foundation-core/whiskering-homotopies.lagda.md [hunk 5]
```diff
@@ -194,26 +229,49 @@ module _
...
 ```
+
+### Left and right whiskering commute definitionally
+
+```agda
+module _
+  { l1 l2 l3 l4 : Level}
+  {A : UU l1} {B : A → UU l2}
+  {C : {x : A} → B x → UU l3} {D : {x : A} → B x → UU l4}
+  { f g : {x : A} (y : B x) → C y}
```
Comment (VojtechStep) [inline src/foundation-core/whiskering-homotopies.lagda.md:268]:
```suggestion
  {l1 l2 l3 l4 : Level}
  {A : UU l1} {B : A → UU l2}
  {C : {x : A} → B x → UU l3} {D : {x : A} → B x → UU l4}
  {f g : {x : A} (y : B x) → C y}
```

File: src/foundation-core/whiskering-homotopies.lagda.md [hunk 6]
```diff
@@ -194,26 +229,49 @@ module _
...
+  {f g : {x : A} (y : B x) → C x y} {H H' : {x : A} → f {x} ~ g {x}}
+  where
+
   ap-right-whisk-htpy :
-    { H H' : f ~ g} (α : H ~ H') (h : C → A) → H ·r h ~ H' ·r h
+    (α : {x : A} → H {x} ~ H' {x}) (h : (x : A) → B x) → H ·r h ~ H' ·r h
   ap-right-whisk-htpy α h = α ·r h
 ```
+
+### Left and right whiskering commute definitionally
```
Comment (VojtechStep) [inline src/foundation-core/whiskering-homotopies.lagda.md:261]: TILI: the proof doesn't show that they commute definitionally, just that there's a homotopy. I'd move the "definitionally" from the heading to a prose sentence.

File: src/foundation-core/whiskering-homotopies.lagda.md [hunk 7]
```diff
@@ -96,95 +109,117 @@ homotopy side.
...
     ( H : f ~ g) (K : g ~ h) →
-    ( k ·l (H ∙h K)) ~ ((k ·l H) ∙h (k ·l K))
+    k ·l (H ∙h K) ~ (k ·l H) ∙h (k ·l K)
   distributive-left-whisk-concat-htpy k H K a =
     ap-concat k (H a) (K a)
 
+module _
+  {l1 l2 l3 : Level} {A : UU l1} {B : A → UU l2} {C : (x : A) → B x → UU l3}
+  ( k : (x : A) → B x) {f g h : {x : A} (y : B x) → C x y}
+  ( H : {x : A} → f {x} ~ g {x}) (K : {x : A} → g {x} ~ h {x})
```
Comment (VojtechStep) [inline src/foundation-core/whiskering-homotopies.lagda.md:190]:
```suggestion
  (k : (x : A) → B x) {f g h : {x : A} (y : B x) → C x y}
  (H : {x : A} → f {x} ~ g {x}) (K : {x : A} → g {x} ~ h {x})
```

**Review by VojtechStep — COMMENTED** [review]
LGTM!

**Comment by fredrik-bakke** [comment]
Thanks for the review! I will try to address the feedback on Sunday

File: src/foundation-core/whiskering-homotopies.lagda.md (hunk 6 above)
Comment (fredrik-bakke) [reply src/foundation-core/whiskering-homotopies.lagda.md:261]: The proof does, the statement does not. Right?

**Comment by fredrik-bakke** [comment]
Any thoughts on the choice of precedence for the two whiskering operations?

**Comment by fredrik-bakke** [comment]
By the way, I've gotten sloppy with the alignment you corrected after I realized how easy it would be to fix it library-wide with a script regardless of the convention we choose. Doing this is definitely high up on my priority list for when we are doing the next sweeping refactor of the library, and this list is getting quite long 😅

File: src/foundation-core/whiskering-homotopies.lagda.md (hunk 6 above)
Comment (VojtechStep) [reply src/foundation-core/whiskering-homotopies.lagda.md]: Yeah

Comment (fredrik-bakke) [reply src/foundation-core/whiskering-homotopies.lagda.md]: What does TILI mean btw?

**Comment by VojtechStep** [comment]
> Any thoughts on the choice of precedence for the two whiskering operations?

I honestly don't think I was ever annoyed about having to paranthesize them, so I'm not sure if it's a readability improvement or not

**Comment by fredrik-bakke** [comment]
My issue was not about the amount of parenthization, but rather that Agda would randomly change it, which slightly annoyed/confused me. I would write one association in a proof, and then Agda would print another. By getting rid of them, it is at least consistent.

**Comment by fredrik-bakke** [comment]
Anyway. Modulo this decision, I am finished with the PR :)

**Comment by VojtechStep** [comment]
It's not like we can't reverse the decision afterwards - I'd say let's try it and see if it's a net positive or not

**Comment by fredrik-bakke** [comment]
Thanks again for the swift review!
